2120-08-18 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - percutaneous nephrostomy tubes by IR with bloody urine drainage
   - HCT dropping 30.4 - 28.1 - 25.7
   - urology recs: left percutaneous nephrostomy tube, urine gram stain
   and culture from drainage, f/u with Dr. [**Last Name (STitle) **] as outpatient re:
   surgical management of stones: [**Telephone/Fax (1) 10136**]
   - nephrostomy out 700
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2120-8-17**] 08:00 AM
   Metronidazole - [**2120-8-17**] 11:09 PM
   Ciprofloxacin - [**2120-8-18**] 06:03 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-8-17**] 08:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-8-18**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.1
C (98.8
   HR: 118 (94 - 132) bpm
   BP: 117/67(80) {88/47(56) - 134/86(96)} mmHg
   RR: 29 (0 - 38) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  8,485 mL
                                                                  1,765 mL
   PO:
                                                                    280 mL
             TF:
   IVF:
                                                                  5,205 mL
                                                                  1,765 mL
   Blood products:
   Total out:
                                                                  3,595 mL
                                                                    910 mL
   Urine:
                                                                  2,945 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,890 mL
                                                                    855 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///17/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   227 K/uL
   8.8 g/dL
   94 mg/dL
   2.7 mg/dL
   17 mEq/L
   3.5 mEq/L
   99 mg/dL
   115 mEq/L
   147 mEq/L
   25.7 %
   22.4 K/uL
        [image002.jpg]
                             [**2120-8-17**]  04:05 AM
                             [**2120-8-17**]  04:18 AM
                             [**2120-8-17**]  12:22 PM
                             [**2120-8-17**]  05:15 PM
                             [**2120-8-17**]  10:07 PM
                             [**2120-8-17**]  10:57 PM
                             [**2120-8-17**]  11:46 PM
                             [**2120-8-18**]  03:33 AM
   WBC
   23.8
   16.8
   22.3
   22.4
   Hct
   32.8
   31.9
   30.4
   28.1
   28.9
   25.7
   Plt
   235
   239
   243
   227
   Cr
   3.1
   2.9
   2.7
   2.7
   Glucose
   100
   94
   242
   77
   78
   94
   Other labs: PT / PTT / INR:18.7/33.7/1.7, ALT / AST:31/39, Alk Phos / T
   Bili:94/4.8, Amylase / Lipase:92/35, Differential-Neuts:77.0 %,
   Band:6.0 %, Lymph:9.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:3.2 mmol/L,
   Albumin:2.2 g/dL, LDH:328 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   58 yof with hx of nephrolithiasis and post-obs renal failure, urosepsis
   p/w N/V and weakness, found to have UTI/pyelonephritis, ATN and sepsis
   #  Severe sepsis.  patient with low grade fever, persistent tachycardia
   and leukocytosis s/p percutaneous nephrostomy tube drainage with
   persistent sanguinous drainage.  Lactate continues to remain elevated
   despite substantial fluid resuscitation.
   - continue ciprofloxacin, cefepime and flagyl for broad spectrum
   coverage for likely UTI and bowel flora
   - f/u urine Cx and gram stain from nephrostomy drainage
   - LDH remains elevated however transaminases and lipase return to
   normal suggesting elevation do to inflammation
     surrounding kidney, continued elevated DBR unexplained
 possible
   passed stone
   #  ARF on CKD.  Likely do to post-obstructive renal failure with
   pyelonephritis and urosepsis now s/p percutaneous nephrostomy tube
   placement.
   - Cr trending slowly downward with fluid boluses and adequate urine
   output
   -  f/u gramstain and culture from drain output
   - consider reimaging if lactate continues to remain elevated and
   patient continues to be tachycardic with leukocytosis
   - continue cipro and cefepime
   .
   # Anion gap metabolic acidosis.  Gap 15 and closing
 likely do to
   lactic acidosis and ARF
   - no osmolar gap
 continue to hydrate and follow
   .
   #  Elevated LFTs.  Persistent elevation of BR and LDH remains elevated
   with resolution of Alk Phos and mild aminitis.
   - initial lab abnormalities suggestive of just surrounding inflammation
   from kidney
   - bilirubin could also suggest passed stone as LFT
s resolving bar
   bilirubin (direct) which may lag and negative RUQ scan
   - continue to trend
   .
   # Elevated lipase.  Now resolved
   # Nephrolithiasis.  Residual stone burden as seen previously.  Has not
   wanted to undergo further procedures in the past.
   - Urology as above.
   .
   # FEN: IVFs, hypernatremia treated with D5W, reg. diet
   # Prophylaxis: Subcutaneous heparin, H2B
   # Access: peripherals
   # Code: presumed full
   # Communication: Patient
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-8-17**] 03:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-08-19 07:09:00 Physician Resident Progress Note
Chief Complaint: This is a 58F with history of nephrolithiasis and
   postobstructive renal failure, history of urosepsis, who presents with
   N/V and weakness and found to have UTI/pyelonephritis, ARF, and severe
   sepsis.
   24 Hour Events:
 BLOOD CULTURED - At [**2120-8-18**] 03:00 PM
 BLOOD CULTURED - At [**2120-8-18**] 04:35 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2120-8-18**] 08:00 AM
   Metronidazole - [**2120-8-18**] 11:50 PM
   Ciprofloxacin - [**2120-8-19**] 05:12 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-8-18**] 08:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-8-19**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.2
   HR: 111 (90 - 130) bpm
   BP: 115/72(81) {94/58(64) - 127/96(100)} mmHg
   RR: 28 (19 - 32) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,098 mL
                                                                    703 mL
   PO:
                                                                    420 mL
             TF:
   IVF:
                                                                  3,678 mL
                                                                    703 mL
   Blood products:
   Total out:
                                                                  3,758 mL
                                                                    720 mL
   Urine:
                                                                  3,758 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    340 mL
                                                                    -18 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   Gen: calm, NAD
   Cv: rrr
   Resp: cta anteriorly
   Abd: perc nephrostomy tube in place, TTP diffusely
   Ext: no edema
   Labs / Radiology
   270 K/uL
   8.4 g/dL
   160 mg/dL
   2.1 mg/dL
   18 mEq/L
   3.6 mEq/L
   74 mg/dL
   115 mEq/L
   146 mEq/L
   25.1 %
   21.8 K/uL
        [image002.jpg]
                             [**2120-8-17**]  04:18 AM
                             [**2120-8-17**]  12:22 PM
                             [**2120-8-17**]  05:15 PM
                             [**2120-8-17**]  10:07 PM
                             [**2120-8-17**]  10:57 PM
                             [**2120-8-17**]  11:46 PM
                             [**2120-8-18**]  03:33 AM
                             [**2120-8-18**]  07:15 AM
                             [**2120-8-18**]  02:37 PM
                             [**2120-8-19**]  04:26 AM
   WBC
   16.8
   22.3
   22.4
   22.4
   20.6
   21.8
   Hct
   31.9
   30.4
   28.1
   28.9
   25.7
   26.5
   25.9
   25.1
   Plt
   [**Telephone/Fax (3) 10160**]63
   280
   270
   Cr
   2.9
   2.7
   2.7
   2.4
   2.1
   Glucose
   94
   [**Telephone/Fax (2) 10161**]31
   160
   Other labs: PT / PTT / INR:18.6/37.1/1.7, ALT / AST:28/35, Alk Phos / T
   Bili:116/3.7, Amylase / Lipase:92/35, Differential-Neuts:83.0 %,
   Band:4.0 %, Lymph:9.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.8 mmol/L,
   Albumin:2.2 g/dL, LDH:411 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Microbiology: BCx: GPRs from anaerobic bottle.
   ucx [**8-17**]: URINE-GRAM STAIN - UNSPUN (Final [**2120-8-17**]):
         GRAM STAIN PERFORMED ON UNSPUN SPECIMEN.
         3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         <1 per 1000x field  .
      URINE CULTURE (Preliminary):    NO GROWTH.
   Assessment and Plan
 HYPERCALCEMIA (HIGH CALCIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
   recurrent history of same, pyleonephritis
   58 yof with hx of nephrolithiasis and post-obs renal failure, urosepsis
   p/w N/V and weakness, found to have UTI/pyelonephritis, ATN and sepsis
   # Sepsis.  low grade fever, persistent tachycardia and leukocytosis s/p
   percutaneous nephrostomy tube drainage with persistent bloody
   drainage.  Based on CT scan findings from [**8-17**]
 renal seems most
   likely source. Now growing GPRs from anaerobic bottle.
   -GPRs in blood per micro, is most c/w corynebacterium or
   [**Last Name (LF) 10169**], [**First Name3 (LF) **] follow up.
   - broad spectrum antibiotics ciprofloxacin, cefepime, flagyl
 will dc
   flagyl for now as low suspicion for bowel source.
   - LFT
s trending down and lipase return to normal suggest collateral
   inflammation surrounding renal infection
 continued elevated DBR
   difficult to explain, may represent recently passed stone
   -plan for PICC tomorrow
   -call urology to figure out perc neph course
   #  ARF.  post-obstructive renal failure with pyelonephritis and likely
   urosepsis now s/p percutaneous nephrostomy tube placement.
   - follow Cr (trending down with fluids) and UOP (excellent)
   - f/u urine culture from drain output
 consider reculturing from bag
   - re-image if continued tachycardia, leukocytosis with decreasing drain
   output
   .
   # Anion gap metabolic acidosis.  GAP 14 and closing, likely [**1-1**] lactic
   acid and ARF
   - no osmolar gap
   .
   # FEN: persistent hypernatremia
   .
   # Prophylaxis: Subcutaneous heparin, H2B
   # Access: peripherals
   # Code: presumed full
   # Communication: Patient
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-8-17**] 03:56 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: